US04069052
0.155 mol (6.5 g) of dehydrated cyanamide were put into 500 ml of anhydrous dioxane and 0.155 mol (19.65 g) of oxalyl chloride were added dropwise at 20° C. After 2 hours' stirring, 0.155 mol (17.1 g) of pyrocatechol, dissolved in 50 ml of dioxane, were added dropwise. The reaction mixture was stirred overnight, suction filtered to remove precipitate and washed with dioxane and water. The solid product was dried and stirred up with about 200 ml of acetone, filtered with Tonsil and evaporated to dryness under reduced pressure at a bath temperature of about 35° C. 13.2 g, which is 41.4% of the theoretical yield, of spiro-[1,3-benzodioxol-2,2'-imidazolidine]-4',5'-dione were obtained. The melting point was 202° C with decomposition.

reactant | cyanamide | 0.155 mol, 6.5 g | N#CN | CH2N2
reactant | oxalyl chloride | 0.155 mol, 19.65 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | pyrocatechol | 0.155 mol, 17.1 g | C=1(O)C(O)=CC=CC1 | C6H6O2
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 500 ml | O1CCOCC1 | C4H8O2
product | spiro-[1,3-benzodioxol-2,2'-imidazolidine]-4',5'-dione | N1C2(NC(C1=O)=O)OC1=C(O2)C=CC=C1 | C9H6N2O4
